US08053457B2
N-[(3-Chloro-2-fluoro-phenyl)-(toluene-4-sulfonyl)-methyl]-formamide
Intermediate 16.2 is prepared in analogy to a published literature procedure (Chem. Lett. 1988, 9, 1531-1534). A mixture of 3-chloro-2-fluorobenzaldehyde (2.00 g, 12.6 mmol), p-toluenesulfinic acid (2.96 g, 18.9 mmol), TMSCl (1.75 mL, 13.9 mmol) and formamide (1.25 mL, 31.5 mmol) in toluene (7 mL) and CH3CN (7 mL) is heated at 50° C. for 5h. After completion, the reaction mixture is quenched by H2O, EtOAc is added and the organic layer is washed with brine, dried over MgSO4 and evaporated in vacuo. Silica gel flash chromatography of the residue affords the title compound as a colorless powder; HPLC: AtRet=4.21 min; 1HNMR(CDCl3) 8.18 (s, 1H), 7.72 (d, 2H), 7.50-7.45 (m, 1H), 7.40-7.30 (m, 3H), 7.20-7.10 (m, 1H), 7.00 (d, 1H), 6.60 (d, 1H), 2.45 (s, 3H).

reactant | 3-chloro-2-fluorobenzaldehyde | 12.6 mmol, 2.00 g | ClC=1C(=C(C=O)C=CC1)F | C7H4ClFO
reactant | p-toluenesulfinic acid | 18.9 mmol, 2.96 g | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
reactant | TMSCl | 13.9 mmol, 1.75 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | formamide | 31.5 mmol, 1.25 mL | C(=O)N | CH3NO
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH3CN | 7 mL | CC#N | C2H3N
product | N-[(3-Chloro-2-fluoro-phenyl)-(toluene-4-sulfonyl)-methyl]-formamide | ClC=1C(=C(C=CC1)C(NC=O)S(=O)(=O)C1=CC=C(C=C1)C)F | C15H13ClFNO3S
